US08669234B2
2-{5-[5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3a,6a-dihydro-thieno[3,2-b]thiophen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester:
2-[5-(5-Bromo-3a,6a-dihydro-thieno[3,2-b]thiophen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (273 mg, 0.598 mmol), bis(pinacolato)diboron (0.228 mg, 0.897 mmol), Pd(dppf)2Cl2 (44 mg, 0.0598 mmol) and KOAc (176 mg, 1.79 mmol) were combined in dioxane and degassed for 12 min with bubbling N2. The reaction mixture was then stirred at 85° C. for 2.5 h, cooled to RT and diluted with EtOAc. The organic mixture was washed with saturated aqueous NaHCO3 and brine before being dried over MgSO4, filtered and concentrated. The crude residue was purified by silica column chromatography (25% to 60% EtOAc/Hex) to provide the title compound (0.159 g, 53%). The product was contaminated with an equimolar amount of a byproduct which was believed to be the proteodebrominated starting material.

reactant | 2-[5-(5-Bromo-3a,6a-dihydro-thieno[3,2-b]thiophen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.598 mmol, 273 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2C(S1)C=C(S2)Br | C18H22BrN3O2S2
reactant | bis(pinacolato)diboron | 0.897 mmol, 0.228 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 1.79 mmol, 176 mg | CC(=O)[O-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 0.0598 mmol, 44 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-{5-[5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3a,6a-dihydro-thieno[3,2-b]thiophen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.159 g, 53% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2C(S1)C=C(S2)B2OC(C(O2)(C)C)(C)C | C24H34BN3O4S2
